US05166437
N-Methyl-3-phenyl-3-(p-trifluoromethylphenoxy)propylamine
A mixture of 4.0 g (0.0357 mol) potassium t-butoxide, ml of N-methylpyrrolidone, 5.0 g (0.0303 mol) of 1-phenyl-3-N-methylaminopropan-1-ol, and 7.4 g (0.0410 mol) of 1-chloro-4-trifluoromethylbenzene was heated to 40° C. and stirred for 8 hours at 40° C. The mixture was then cooled to 20°-25° C. and 40 ml of toluene and water were added. The combined toluene-phases were washed four times with 20 ml of water. Toluene was evaporated under reduced pressure yielding 5.06 g of the product.

reactant | potassium t-butoxide | 0.0357 mol, 4.0 g | CC(C)([O-])C.[K+]
reactant | N-methylpyrrolidone | CN1C(CCC1)=O | C5H9NO
reactant | 1-chloro-4-trifluoromethylbenzene | 0.0410 mol, 7.4 g | ClC1=CC=C(C=C1)C(F)(F)F | C7H4ClF3
reactant | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | N-Methyl-3-phenyl-3-(p-trifluoromethylphenoxy)propylamine | 5.06 g | CNCCC(OC1=CC=C(C=C1)C(F)(F)F)C1=CC=CC=C1 | C17H18F3NO
